US07812016B2
7-[5-(4-Chlorobenzyl)-4H-1,2,4-triazol-3-yl]-5-(1,1-dioxido-1,2-thiazinan-2-yl)-1,6-naphthyridin-8-ol
The title compound was prepared in a similar manner to that described in example 3 from 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-1,6-naphthyridine-7-carbonitrile (75 mg, 0.24 mmol) and 2-(4-chlorophenyl)acetic hydrazide (137 mg, 0.74 mmol) to give a white solid (49 mg, 43%). 1H NMR (CDCl3/CD3OD): δ 9.06 (d, J=3.6 Hz, 1 H), 8.62 (d, J=8.4 Hz, 1 H), 7.66 (dd, J=8.4, 4.0 Hz, 1 H), 7.28-7.21 (m, 4 H), 4.15 (s, 2 H), 3.89 (m, 1 H), 3.82 (m, 1 H), 3.63 (m, 1 H), 3.31 (m, 1 H), 2.41 (m, 3 H), 1.79 (m, 1 H); MS m/z 471 (M+1).

reactant | 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-1,6-naphthyridine-7-carbonitrile | 0.24 mmol, 75 mg | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C#N)O)=O | C13H12N4O3S
reactant | 2-(4-chlorophenyl)acetic hydrazide | 0.74 mmol, 137 mg | ClC1=CC=C(C=C1)CC(=O)NN | C8H9ClN2O
product | 7-[5-(4-Chlorobenzyl)-4H-1,2,4-triazol-3-yl]-5-(1,1-dioxido-1,2-thiazinan-2-yl)-1,6-naphthyridin-8-ol | ClC1=CC=C(CC=2NC(=NN2)C2=NC(=C3C=CC=NC3=C2O)N2S(CCCC2)(=O)=O)C=C1 | C21H19ClN6O3S
